US08076516B2
Coupling of 4-ethynylheptan-4-ol with 3-bromobenzonitrile following the method described in Example 12 gives 3-(3-hydroxy-3-propylhex-1-ynyl)benzonitrile.

reactant | 4-ethynylheptan-4-ol | C(#C)C(CCC)(CCC)O | C9H16O
reactant | 3-bromobenzonitrile | BrC=1C=C(C#N)C=CC1 | C7H4BrN
product | 3-(3-hydroxy-3-propylhex-1-ynyl)benzonitrile | OC(C#CC=1C=C(C#N)C=CC1)(CCC)CCC | C16H19NO
